US04090996
polyundecanolactam (nylon 11)
polyamide of hexamethylenediamine and n-dodecanedioic acid (nylon 6:12)

reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
reactant | n-dodecanedioic acid | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
product | polyundecanolactam | C(CCCCCN)CCCCC(=O)O | C11H23NO2
